US07282512B2
To a solution of 16.75 g (59.0 mmol) of {1-[(benzyloxy)methyl]cyclobutyl}methyl methanesulfonate in 150 mL of N,N-dimethylformamide and 15 mL of water was added 4.97 g (88.5 mmol) of potassium cyanide and the contents heated at 130° C. for 5 h. The reaction mixture was cooled, diluted with ether and water, and the layers separated. The organic phase was dried using magnesium sulfate and concentrated under vacuum to afford the crude product, which was purified by silica gel chromatography using ethyl acetate/hexane (1:3) as the eluent to afford 8.0 g (88%) of {1-[(benzyloxy)methyl]cyclobutyl}acetonitrile as a colorless oil. 1H NMR (300 MHz, CDCl3). 1H NMR (300 MHz, CDCl3) δ 7.43-7.29 (m, 5H), 4.59 (s, 2H), 3.5 (s, 2H), 2.6 (s, 2H), 2.08-1.92 (m, 6H).

reactant | {1-[(benzyloxy)methyl]cyclobutyl}methyl methanesulfonate | 59.0 mmol, 16.75 g | CS(=O)(=O)OCC1(CCC1)COCC1=CC=CC=C1 | C14H20O4S
reactant | potassium cyanide | 88.5 mmol, 4.97 g | [C-]#N.[K+]
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | water | 15 mL | O | H2O
solvent | ether | CCOCC | C4H10O
product | {1-[(benzyloxy)methyl]cyclobutyl}acetonitrile | 8.0 g, 88% | C(C1=CC=CC=C1)OCC1(CCC1)CC#N | C14H17NO
